US06762326B2
5-Chloro-2-methanesulfonylindan-1-one:
0.5 g of 5-chloro-2-methylsulfanylindan-1-one was dissolved in 10 ml of dry ethanol. At 0° C., a solution of 4.33 g of potassium hydrogenpersulfate (2 KHSO5×KHSO4×K2SO4; “Oxone”) in 10 ml of water was added dropwise and the reaction mixture was then stirred at room temperature for 5 h. The alcohol was distilled off under reduced pressure at room temperature. 20 ml of dichloromethane and 10 ml of water was added to the residue, and the mixture was stirred for 10 min. The organic phase was separated off, dried over magnesium sulfate, filtered and concentrated under reduced pressure, and the residue was dried. This gave 5-chloro-2-methylsulfonylindan-1-one of melting point 196° C.

reactant | 5-chloro-2-methylsulfanylindan-1-one | 0.5 g | ClC=1C=C2CC(C(C2=CC1)=O)SC | C10H9ClOS
reactant | potassium hydrogenpersulfate | 4.33 g | S(=O)(=O)(O)OOS(=O)(=O)[O-].[K+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 5-Chloro-2-methanesulfonylindan-1-one | ClC=1C=C2CC(C(C2=CC1)=O)S(=O)(=O)C | C10H9ClO3S
